US07022689B2
To a solution of 1.65 g of ethyl [[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetate in 10 mL of ethanol was added 14 mL of 2 mol/L sodium hydroxide solution at room temperature, and the mixture was stirred at the same temperature for 3 hours. To the reaction mixture was added 15 mL of 2 mL of hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 1.416 g of [[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetic acid.

reactant | ethyl [[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetate | 1.65 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)NCC(=O)OCC)O | C22H27N3O5S
reactant | sodium hydroxide | 2 mol/L, 14 mL | [OH-].[Na+]
reactant | hydrochloric acid | 15 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetic acid | 1.416 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)NCC(=O)O)O | C20H23N3O5S
